US06013663
(S)-N-[5-(1,2-Dithiolan-3-yl)pentanoyl]methanesulfonamide (Compound No. 1-496)
300 mg of (S)-α-lipoic acid were dissolved in 6 ml of anhydrous dimethylformamide, and 276 mg of N,N'-carbonyldiimidazole and 1 ml of anhydrous dimethylformamide were added to the solution, whilst ice-cooling. The mixture was then stirred at room temperature for 1 hour and 30 minutes. At the end of this time, 162 mg of methanesulfonamide and 74 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were added to the reaction mixture, whilst ice-cooling, and the mixture was stirred at room temperature for 1 hour and then left to stand for 2 days. The solvent was then removed from the reaction mixture by evaporation under reduced pressure, and water was added to the residue thus obtained, after which it was extracted with ethyl acetate. The extraction solution was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed from the extraction solution by evaporation under reduced pressure. The residue thus obtained was purified by silica gel column chromatography, using 1:1 and 3:1 by volume mixtures of ethyl acetate and hexane as eluent. It was then recrystallized form a 1:2 by volume mixture of ethyl acetate and hexane, to obtain 154 mg of the title compound, melting at 91° C. to 92° C.

reactant | (S)-α-lipoic acid | 300 mg | C1CSS[C@H]1CCCCC(=O)O | C8H14O2S2
reactant | methanesulfonamide | 162 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 74 mg | [H-].[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (S)-N-[5-(1,2-Dithiolan-3-yl)pentanoyl]methanesulfonamide | 154 mg | S1S[C@H](CC1)CCCCC(=O)NS(=O)(=O)C | C9H17NO3S3
